US07601716B2
4-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (509 mg) was reacted with 4-ethoxycarbonyl phenyl boronic acid as in General Procedure 4B to give the title compound as a brown solid (72% yield). M.p.=178° C., LCMS: m/z=388.23 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.32 (3H, t, J=7.1 Hz), 4.20 (2H, d, J=1.5 Hz), 4.31 (2H, q, J=7.1 Hz), 5.26 (2H, s), 7.23 (2H, m), 7.32 (2H, s), 7.34 (2H, m), 7.39 (1H, d, J=1.8 Hz), 7.63 (2H, d, J=8.6 Hz), 7.94 (2H, d, J=8.3 Hz), 8.06 (1H, d, J=2.0 Hz).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 509 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 4-ethoxycarbonyl phenyl boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid ethyl ester | 72% yield | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCC(N2CC2=CC=CC=C2)=O)N=C1)=O | C23H21N3O3
